US08710043B2
Step 1. Benzyl 2-oxo-2H-pyran-5-carboxylate
A solution of coumalic acid (1.2 g, 8.57 mmol) in DCM (20 mL) and THF (20 mL) was treated with 4-dimethylaminopyridine (0.105 g, 0.857 mmol). The reaction was stirred under nitrogen at 23° C. After 15 min, benzyl alcohol (0.886 mL, 8.57 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.642 g, 8.57 mmol) were added, and the stirring was continued. After 5 h, the solution was diluted with DCM (200 mL) and the mixture was washed with water (150 mL), dried over MgSO4, concentrated in vacuo and purified by silica gel chromatography (eluent: 5-25% EtOAc/hexane), affording the title compound as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 8.32 (s, 1H), 7.80 (dd, J=9.78, 2.15 Hz, 1H), 7.33-7.48 (m, 5H), 6.33 (d, J=9.78 Hz, 1H), 5.31 (s, 2H). MS (ESI, positive ion) m/z: 231.1 (M+H).

reactant | coumalic acid | 8.57 mmol, 1.2 g | C1=CC(=O)OC=C1C(=O)O | C6H4O4
reactant | benzyl alcohol | 8.57 mmol, 0.886 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 8.57 mmol, 1.642 g | Cl.CN(CCCN=C=NCC)C
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.857 mmol, 0.105 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | Benzyl 2-oxo-2H-pyran-5-carboxylate | O=C1OC=C(C=C1)C(=O)OCC1=CC=CC=C1 | C13H10O4
